* CDL/LVS-oriented netlist
.SUBCKT fdnrbq_x1 Q CK D RD VDD VSS
XFDNRBQ_ck_P0 FDNRBQ_ck_b CK VDD VDD pmos w=2u l=100n
XFDNRBQ_ck_N0 FDNRBQ_ck_b CK VSS VSS nmos w=1u l=100n
XFDNRBQ_m_in_P FDNRBQ_m_n1 FDNRBQ_ck_b D VDD pmos w=2u l=100n
XFDNRBQ_m_in_N FDNRBQ_m_n1 CK D VSS nmos w=1u l=100n
XFDNRBQ_m_i1_P0 FDNRBQ_m_n2 FDNRBQ_m_n1 VDD VDD pmos w=2u l=100n
XFDNRBQ_m_i1_N0 FDNRBQ_m_n2 FDNRBQ_m_n1 VSS VSS nmos w=1u l=100n
XFDNRBQ_m_i2_P0 FDNRBQ_m_n1 FDNRBQ_m_n2 VDD VDD pmos w=2u l=100n
XFDNRBQ_m_i2_N0 FDNRBQ_m_n1 FDNRBQ_m_n2 VSS VSS nmos w=1u l=100n
XFDNRBQ_m_fb_P FDNRBQ_m_n1 CK FDNRBQ_m_n2 VDD pmos w=2u l=100n
XFDNRBQ_m_fb_N FDNRBQ_m_n1 FDNRBQ_ck_b FDNRBQ_m_n2 VSS nmos w=1u l=100n
XFDNRBQ_m_o_P0 FDNRBQ_qm FDNRBQ_m_n2 VDD VDD pmos w=2u l=100n
XFDNRBQ_m_o_N0 FDNRBQ_qm FDNRBQ_m_n2 VSS VSS nmos w=1u l=100n
XFDNRBQ_s_in_P FDNRBQ_s_n1 CK FDNRBQ_qm VDD pmos w=2u l=100n
XFDNRBQ_s_in_N FDNRBQ_s_n1 FDNRBQ_ck_b FDNRBQ_qm VSS nmos w=1u l=100n
XFDNRBQ_s_i1_P0 FDNRBQ_s_n2 FDNRBQ_s_n1 VDD VDD pmos w=2u l=100n
XFDNRBQ_s_i1_N0 FDNRBQ_s_n2 FDNRBQ_s_n1 VSS VSS nmos w=1u l=100n
XFDNRBQ_s_i2_P0 FDNRBQ_s_n1 FDNRBQ_s_n2 VDD VDD pmos w=2u l=100n
XFDNRBQ_s_i2_N0 FDNRBQ_s_n1 FDNRBQ_s_n2 VSS VSS nmos w=1u l=100n
XFDNRBQ_s_fb_P FDNRBQ_s_n1 FDNRBQ_ck_b FDNRBQ_s_n2 VDD pmos w=2u l=100n
XFDNRBQ_s_fb_N FDNRBQ_s_n1 CK FDNRBQ_s_n2 VSS nmos w=1u l=100n
XFDNRBQ_s_o_P0 Q FDNRBQ_s_n2 VDD VDD pmos w=2u l=100n
XFDNRBQ_s_o_N0 Q FDNRBQ_s_n2 VSS VSS nmos w=1u l=100n
XFDNRBQ_rdi_P0 FDNRBQ_rd_b RD VDD VDD pmos w=2u l=100n
XFDNRBQ_rdi_N0 FDNRBQ_rd_b RD VSS VSS nmos w=1u l=100n
XFDNRBQ_rcl Q FDNRBQ_rd_b VSS VSS nmos w=1u l=100n
.ENDS fdnrbq_x1
