* CDL/LVS-oriented netlist
.SUBCKT fdnsbq_x1 Q CK D SD VDD VSS
XFDNSBQ_ck_P0 FDNSBQ_ck_b CK VDD VDD pmos w=2u l=100n
XFDNSBQ_ck_N0 FDNSBQ_ck_b CK VSS VSS nmos w=1u l=100n
XFDNSBQ_m_in_P FDNSBQ_m_n1 FDNSBQ_ck_b D VDD pmos w=2u l=100n
XFDNSBQ_m_in_N FDNSBQ_m_n1 CK D VSS nmos w=1u l=100n
XFDNSBQ_m_i1_P0 FDNSBQ_m_n2 FDNSBQ_m_n1 VDD VDD pmos w=2u l=100n
XFDNSBQ_m_i1_N0 FDNSBQ_m_n2 FDNSBQ_m_n1 VSS VSS nmos w=1u l=100n
XFDNSBQ_m_i2_P0 FDNSBQ_m_n1 FDNSBQ_m_n2 VDD VDD pmos w=2u l=100n
XFDNSBQ_m_i2_N0 FDNSBQ_m_n1 FDNSBQ_m_n2 VSS VSS nmos w=1u l=100n
XFDNSBQ_m_fb_P FDNSBQ_m_n1 CK FDNSBQ_m_n2 VDD pmos w=2u l=100n
XFDNSBQ_m_fb_N FDNSBQ_m_n1 FDNSBQ_ck_b FDNSBQ_m_n2 VSS nmos w=1u l=100n
XFDNSBQ_m_o_P0 FDNSBQ_qm FDNSBQ_m_n2 VDD VDD pmos w=2u l=100n
XFDNSBQ_m_o_N0 FDNSBQ_qm FDNSBQ_m_n2 VSS VSS nmos w=1u l=100n
XFDNSBQ_s_in_P FDNSBQ_s_n1 CK FDNSBQ_qm VDD pmos w=2u l=100n
XFDNSBQ_s_in_N FDNSBQ_s_n1 FDNSBQ_ck_b FDNSBQ_qm VSS nmos w=1u l=100n
XFDNSBQ_s_i1_P0 FDNSBQ_s_n2 FDNSBQ_s_n1 VDD VDD pmos w=2u l=100n
XFDNSBQ_s_i1_N0 FDNSBQ_s_n2 FDNSBQ_s_n1 VSS VSS nmos w=1u l=100n
XFDNSBQ_s_i2_P0 FDNSBQ_s_n1 FDNSBQ_s_n2 VDD VDD pmos w=2u l=100n
XFDNSBQ_s_i2_N0 FDNSBQ_s_n1 FDNSBQ_s_n2 VSS VSS nmos w=1u l=100n
XFDNSBQ_s_fb_P FDNSBQ_s_n1 FDNSBQ_ck_b FDNSBQ_s_n2 VDD pmos w=2u l=100n
XFDNSBQ_s_fb_N FDNSBQ_s_n1 CK FDNSBQ_s_n2 VSS nmos w=1u l=100n
XFDNSBQ_s_o_P0 Q FDNSBQ_s_n2 VDD VDD pmos w=2u l=100n
XFDNSBQ_s_o_N0 Q FDNSBQ_s_n2 VSS VSS nmos w=1u l=100n
XFDNSBQ_sdi_P0 FDNSBQ_sd_b SD VDD VDD pmos w=2u l=100n
XFDNSBQ_sdi_N0 FDNSBQ_sd_b SD VSS VSS nmos w=1u l=100n
XFDNSBQ_rst Q FDNSBQ_sd_b VDD VDD pmos w=2u l=100n
.ENDS fdnsbq_x1
